US04193788
To a solution of 257 mg. (2 mmol) of 2-chloro-4-aminopyridine dissolved in ten ml. of dry acetone, 238 mg. (2 mmol) of phenyl isocyanate is added and the mixture is stirred at room temperature for 8 hrs. The solvent is evaporated under a reduced pressure, the residue is chromatographed over alumina, and the column is developed with chloroform. Eluates containing the objective substance are collected, and the solvent is evaporated under a reduced pressure. The residue is recrystallized from acetone-ether mixture and 364 mg. of N-(2-chloro-4-pyridyl)-N'-phenylurea is obtained. Yield, 73.5%, mp 173°-174° C.

reactant | 2-chloro-4-aminopyridine | 2 mmol | ClC1=NC=CC(=C1)N | C5H5ClN2
reactant | phenyl isocyanate | 2 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetone | CC(=O)C | C3H6O
product | N-(2-chloro-4-pyridyl)-N'-phenylurea | ClC1=NC=CC(=C1)NC(=O)NC1=CC=CC=C1 | C12H10ClN3O
